US04743601
N-(2,3-dihydroxypropyl)-2-methyl-4-quinolinamine
A mixture of 4-chloro-2-methylquinoline (50 g) and 3-amino-1,2-propandiol (51 g) was heated at 160° C. for 1 hour. The mixture while still hot was poured into 700 ml of water. The mixture was saturated with potassium carbonate and cooled in an ice bath, whereupon the product crystallized. It was filtered and recrystallized from ethanol. The yield was 55 g, mp 167°-168° C.

reactant | 4-chloro-2-methylquinoline | 50 g | ClC1=CC(=NC2=CC=CC=C12)C | C10H8ClN
reactant | 3-amino-1,2-propandiol | 51 g | NCC(CO)O | C3H9NO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 700 ml | O | H2O
product | N-(2,3-dihydroxypropyl)-2-methyl-4-quinolinamine | OC(CNC1=CC(=NC2=CC=CC=C12)C)CO | C13H16N2O2
